US08440651B2
4-(6-((3-(4,4-difluoropiperidin-1-yl)azetidin-1-yl)methyl)-2-(5-fluoro-1H-indol-4-yl)pyrido[3,2-d]pyrimidin-4-yl)morpholine 125
4-(2-chloro-6-((3-(4,4-difluoropiperidin-1-yl)azetidin-1-yl)methyl)pyrido[3,2-d]pyrimidin-4-yl)morpholine was reacted with 1-(tert-butyldimethylsilyl)-5-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indole via General Procedure A to produce 24.7 mg of 125 following reverse phase HPLC purification.

reactant | 4-(2-chloro-6-((3-(4,4-difluoropiperidin-1-yl)azetidin-1-yl)methyl)pyrido[3,2-d]pyrimidin-4-yl)morpholine | ClC=1N=C(C2=C(N1)C=CC(=N2)CN2CC(C2)N2CCC(CC2)(F)F)N2CCOCC2 | C20H25ClF2N6O
reactant | 1-(tert-butyldimethylsilyl)-5-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indole | [Si](C)(C)(C(C)(C)C)N1C=CC2=C(C(=CC=C12)F)B1OC(C(O1)(C)C)(C)C | C20H31BFNO2Si
product | 4-(6-((3-(4,4-difluoropiperidin-1-yl)azetidin-1-yl)methyl)-2-(5-fluoro-1H-indol-4-yl)pyrido[3,2-d]pyrimidin-4-yl)morpholine | FC1(CCN(CC1)C1CN(C1)CC=1C=CC=2N=C(N=C(C2N1)N1CCOCC1)C1=C2C=CNC2=CC=C1F)F | C28H30F3N7O
